US05872115
Step 1): A solution of SOCl2 (0.5 ml, 6.6 mmol) in chloroform (10 ml) was added dropwise to a solution of 3,5-dimethoxy-2-nitrobenzoic acid [Bull. Soc. Chim. Fr., 127, 258 (1990)] (1.0 g, 4.4 mmol) and a catalytic amount of DMF in chloroform (20 ml) at room temperature. The reaction mixture was refluxed for 1 hour and then concentrated. The residue was dissolved in THF (10 ml). The THF solution was added dropwise to a solution of 4-amino-1-diphenylmethylpiperidine (1.2 g, 4.4 mmol) and triethylamine (0.5 ml, 6.6 mmol) in THF (20 ml) at 5° C. The mixture was stirred at room temperature for 1 hour and then concentrated. The residue was dissolved in ethyl acetate and washed with water. The organic layer was dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel (10% ethyl acetate in dichloromethane) to give 3,5-dimethoxy-2-nitro-N-(1-diphenylmethylpiperidin-4-yl)benzamide (81.0%): mp 148°-150° C.

reactant | SOCl2 | 6.6 mmol, 0.5 ml | O=S(Cl)Cl | Cl2OS
reactant | 3,5-dimethoxy-2-nitrobenzoic acid | 4.4 mmol, 1.0 g | COC=1C(=C(C(=O)O)C=C(C1)OC)[N+](=O)[O-] | C9H9NO6
reactant | 4-amino-1-diphenylmethylpiperidine | 4.4 mmol, 1.2 g | NC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22N2
reactant | triethylamine | 6.6 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,5-dimethoxy-2-nitro-N-(1-diphenylmethylpiperidin-4-yl)benzamide | 81.0% | COC=1C(=C(C(=O)NC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)OC)[N+](=O)[O-] | C27H29N3O5
